Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ibuprofen / Penicillins / Sulfa (Sulfonamide Antibiotics) / 
Levofloxacin / Depakote
 
Attending: ___
 
Chief Complaint:
lethargy, confusion, poor oral intake, s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: Pt is a ___ with PMH HTN, HLD, hypothyroidism, recent CVA 
with left sided deficits (7 wks ago) s/p ___ who presents with 
lethargy and confusion. Pt is unsure why she is here, but denies 
nausea, vomiting, fever, chills. She endorses dysuria and mild 
abdominal pain. Per ___ nursing staff at ___, she had 
stroke at left caudate with no residual deficits at ___ 
___. Per nursing, pt had possible history of hydronephrosis, 
though none currently. Pt has chronic UTI's at one point on 
chronic macrobid, but with no help. She does not have a chronic 
indwelling foley. Pt coming in for dehydration, abnormal labs, 
unsteady gait. Unwitnessed fall, no known LOC, head strike.
.
In the ED, initial VS: 95 80 137/69 16 97%. Exam was non-focal, 
AA&Ox2. Labs showed hypernatremia with Na 149, Cr 3.9 (recent 
baseline wnl) WBC 8.9 with no left shift. UA was positive. Blood 
& urine cultures were sent. She was given one dose of CTX for 
presumed UTI. CXR showed no acute process. Knee xray was done 
given right knee pain which showed no fracture or effusion. She 
was given 2LNS prior to transfer to the floors.
.
VS prior to transfer 96.4,69,132/58,17,97%ra
.
On the floors, pt unable to provide any history, and is unsure 
why she is here. Mumbling a few words, states some stomach "pain 
in the middle."
.
Per referral note, pt was A&Ox1, with decreased safety 
awareness, with occasional agitation, frustration. Ambulates 
with rolling walker. ___ the RN I spoke with, she plans to fax 
over records.
.
Records review - Documentation per progress note listed as pt 
A&Ox0 as of ___, confused, disoriented, and forgetful.
.
Per the patient's daughter (who is a ___), who is currently in 
the room, Pt's mental status has returned to baseline. Her 
symptoms began on ___, when her daughter noticed 
reduced oral intake, worsening over several days. Pt then had an 
unwitnessed fall on ___ at ~8.30pm onto her left side and 
was found down on her left hip. Pt denied any head strike. 
___ feels that her mental status is now at baseline. She is 
now most concerned about her decreased oral intake.

ROS: Per HPI
Denies fever, chills, chest pain, cough, n/v. Not answering rest 
of ROS.

 
Past Medical History:
HTN
Hypothyroidism
Alzheimer's dementia
Anemia
DVT RUE with neg u/s per note ___
Macular degeneration
Recurrent UTI's

 
Social History:
___
Family History:
not contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - Temp 96.7F, BP 130/68, HR 77, R 16, O2-sat 97% RA
Orthostatics - flat 126/64 HR 78, sitting 126/64 HR 79, standing 
96/40 HR 100.
GENERAL - elderly female, sleeping, awakens to voice, eyes 
closed, NAD, appears mildly confused on awakening
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, very dry MM, OP 
clear
NECK - supple, no JVD
LUNGS - no use accessory mm, faint crackles at b/l bases, no 
wheezes
HEART - RRR, no MRG, nl S1-S2
ABDOMEN - NABS, soft, mild TTP suprapubic and left flank, no 
rebound or guarding
EXTREMITIES - warm, dry, 2+ DP pulses, trace ankle edema
NEURO - sleeping, awakens to voice, pt not answering orientation 
questions, appears mildly confused, CNs II-XII grossly intact, 
able to follow commands, squeezes hands to command 3+/5 
bilaterally, able to very slightly elevate legs off bed 
bilaterally, toes downgoing; speech with ___ word answers, 
mumbling

Repeat orthostatics ___ negative.
 
Pertinent Results:
Admission Labs:
___ 08:40PM BLOOD WBC-8.9# RBC-3.75* Hgb-12.0 Hct-36.1 
MCV-96 MCH-32.1* MCHC-33.3 RDW-13.5 Plt ___
___ 08:40PM BLOOD Neuts-65.5 ___ Monos-4.0 Eos-3.8 
Baso-0.7
___ 08:40PM BLOOD Glucose-103* UreaN-60* Creat-3.9*# 
Na-149* K-4.2 Cl-115* HCO3-20* AnGap-18
___ 06:00AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.1
___ 06:00AM BLOOD VitB12-831 Folate-9.6
___ 03:18AM BLOOD Lactate-0.6

Discharge Labs:
___ 07:20AM BLOOD WBC-7.9 RBC-3.19* Hgb-10.7* Hct-30.4* 
MCV-95 MCH-33.6* MCHC-35.3* RDW-13.6 Plt ___
___ 07:20AM BLOOD Neuts-63.9 ___ Monos-5.3 Eos-3.5 
Baso-0.3
___ 07:20AM BLOOD Glucose-90 UreaN-24* Creat-1.9* Na-143 
K-3.4 Cl-116* HCO3-17* AnGap-13
___ 07:20AM BLOOD Albumin-3.2* Calcium-8.2* Phos-2.5* 
Mg-2.1

Urine Studies:
___ 12:51AM URINE Color-Yellow Appear-Hazy Sp ___
___ 12:51AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 12:51AM URINE RBC-1 WBC-34* Bacteri-FEW Yeast-NONE 
Epi-<1 NonsqEp-1
___ 12:51AM URINE WBC Clm-OCC Mucous-RARE
___ 12:51AM URINE Eos-POSITIVE  
___ 06:01AM URINE Hours-RANDOM UreaN-595 Creat-70 Na-41 
K-42 Cl-35
___ 06:01AM URINE Osmolal-422

Microbiology:

URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM POSITIVE BACTERIA.    >100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Blood Cx x 2 PENDING, with NGTD.

Radiologic Studies:

___ HEAD W/O CONTRAST
FINDINGS: There is no evidence of acute hemorrhage, edema, mass 
effect, or recent infarction. A lacune in the right caudate is 
new from the prior examination, however, chronic. An additional 
area of hypodensity in the subcortical white matter of the right 
frontal lobe is also new from the prior examination, however, 
remote in appearance. Prominence of the ventricles and sulci 
reflects generalized atrophy, age related. No fracture or 
concerning osseous lesion is seen. The visualized paranasal 
sinuses and mastoid air cells are clear. There are vascular 
calcifications including the carotid siphons bilaterally. 
IMPRESSION: No evidence of acute intracranial process. 

___ (AP, LAT & OBLIQUE
Mild joint degenerative change, but no acute injury. 
Calcifications within the lateral meniscus likely reflective of 
chondrocalcinosis. 

___ (PA & LAT)
No acute cardiopulmonary findings.

___ U.S.
The right kidney measures up to 12.8 cm and contains a simple 
cyst in the right upper pole measuring up to 2.2 x 1.4 cm. The 
left kidney measures 9.8 cm and contains a 1.8 x 1.8 cm cyst in 
the interpolar region. No stones, masses, or hydronephrosis is 
seen in either kidney. The bladder is collapsed around a Foley 
catheter and not assessed. No evidence of hydronephrosis. 

 
Brief Hospital Course:
Pt is a ___ with PMH HTN, HLD, hypothyroidism, recent CVA with 
left sided deficits (7 wks ago) s/p ___ who presents with 
lethargy and confusion.
.
# Altered mental status, lethargy: Most likely delirium on 
sensitive substrate, baseline dementia. Delirium most likely ___ 
infection (likely UTI see below). CXR without evidence of PNA. 
DDx includes metabolic abnormalities such as hypernatremia, vs. 
acute renal failure vs. hypothyroidism; or pain. Other ddx 
includes acute intracranial process such as CVA. However, CT 
head w/o with no change, and neuro exam unchanged and other 
etiologies to explain symptoms, this is less likely. Most likely 
metabolic encephalopathy due to infection and dehydration. Per 
Pt's daughter, Pt was at baseline by day 2 of admission.
.
# UTI: UA with WBC 34 RBC 1 bacteria few. Pt with dysuria, and 
previous h/o UTI's, in addition to lethargy and confusion can be 
syx of UTI in the elderly. Pt with previous Klebsiella UTI here 
in ___, sensitive to ceftriaxone. Per ___ RN at ___, 
pt with recurrent UTI's previously. Given positive UA, Pt was 
continued on ceftriaxone as pt seems to have tolerated that in 
the ED (has listed allergies to PCN, Levofloxacin). Pt's UCx 
grew pansensitive klebsiella. Blood cultures with NGTD at the 
time of discharge. Pt was discharged on cefpodoxime for a total 
treatment course of 7 days. Of note, urine eosinophils were 
positive, should be repeated as an outpatient.
.
# Hypernatremia: Na 149 on admission, likely ___ poor po intake. 
Pt appears dry on exam. Pt already received 1L NS in the ED. 
Calculated free water deficit 2.1L. Pt was repleted with IV 
fluids, and her hypernatremia corrected by time of discharge.
.
# Acute renal failure: Baseline Cr wnl per written notes on 
transfer, and according to her daughter (thinks it's ~1.2). On 
admission Cr 3.9. DDx includes pre-renal vs. intra-renal vs. 
post-obstructive. Pt appears dry on exam, most likely pre-renal. 
Intra-renal such as ATN vs. AIN is possible. Pt is on PPI, 
unclear if new. Concern for post-obstructive, given in ED note, 
written that pt has h/o hydronephrosis. Per ___ RN at ___ 
___, unsure if pt has had hydronephrosis and this may be an 
old issue. H/o hydronephrosis is not documented in recent 
progress notes at ___, and repeat renal ultrasound 
shows no evidence of hydronephrosis, but there a ~2cm cyst in 
the L kidney. On presentation, Pt's FeNA 1.03%, but Pt taking 
furosemide. FUrea 53.9%, suggestive of ATN, and mild Ueos. Pt's 
creatinine steadily improved with IV fluids. Pt's PPI was held 
in case of AIN, can be restarted as an outpatient. Pt's 
furosemide was also held given acute renal failure, can be 
restarted as an outpatient if renal function continues to 
improve.  
.
# S/p falls: possibly mechanical, though unwitnessed so unknown 
if headstrike or LOC. Possible weakness in setting of poor po 
intake, dehydration. Pt denies prodromal syx. Pt was placed on 
fall precautions and had a ___ consult.
.
# recent CVA: CVA reportedly in ___ at ___, in left 
caudate per ___ living. No documentation of this on records 
obtained thus far. Per ___ RN there, no residual deficits. Pt 
had no notable residual deficits on exam during this admission. 
She was continued on her home statin and aggrenox.
.
# HTN: currently normotensive. She was continued on her home 
metoprolol tartrate 12.5mg bid.
.
# Hypothyroidism: TSH 2.53 on OSH labs from ___. Continued 
Levothyroxine 88mcg daily
.
TRANSITIONAL ISSUES:
- Pt to have repeat chem 7 on ___ to monitor for 
improvement in renal function. Decisions about restarting PPI 
and lasix should be made at that time.
- 2 sets of blood cultures pending at the time of discharge, 
should be followed as an outpatient.
- Urine eosinophils should be repeated as an outpatient.
 
Medications on Admission:
___ in ___ list
-Remeron 15 mg Tab Oral 1 Tablet(s), at bedtime
-Lasix 20 mg Tab Oral 1 Tablet(s) Once Daily
-Seroquel 50 mg Tab Oral 1 Tablet(s) Three times daily
-Aggrenox ___ mg-25 mg 12 hr Cap Oral 1 Cap, ER Multiphase 12 
hr(s) Twice Daily
-alendronate 70 mg Tab Oral 1 Tablet(s) every ___
-artificial tears two drops daily
-citrucel 500mg daily
-cranberry cap 425mg BID
-docusate 100mg BID
-bisacodyl 10mg prn
-fleet prn
-Florastor 250 mg Cap Oral 1 Capsule(s) Once Daily
-levothyroxine 88 mcg Tab Oral 1 Tablet(s) Once Daily
-heparin (porcine) 5,000 unit/mL Syringe Injection 1 Syringe(s) 
Once Daily sub cu q8hrs
-metoprolol tartrate 25 mg Tab Oral 1 Tablet(s) ___ tab Twice 
Daily
-milk of mag prn
-MVI
-omeprazole 20 mg Tab, Delayed Release Oral 1 Tablet, Delayed 
Release (E.C.)(s) Once Daily
-potassium chloride ER 20 mEq Tab daily
-senna prn
-simethicone prn
-simvastatin 20 mg Tab Oral 1 Tablet(s) Once Daily
-tums 750mg daily
-tylenol prn
-ultram 50mg TID
-visine prn
-vitamin d 100units daily

 
Discharge Medications:
1. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. quetiapine 50 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
3. dipyridamole-aspirin 200-25 mg Cap, ER Multiphase 12 hr Sig: 
One (1) Cap PO BID (2 times a day).  
4. alendronate 70 mg Tablet Sig: One (1) Tablet PO QSUN (every 
___.  
5. polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: Two (2) 
Drop Ophthalmic DAILY (Daily).  
6. Citrucel 500 mg Tablet Sig: One (1) Tablet PO once a day.  
7. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).  
9. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. cranberry  Oral
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.  
13. bisacodyl 5 mg Tablet Sig: ___ Tablets PO once a day as 
needed for constipation.  
14. Florastor  Oral
15. Milk of Magnesia 400 mg/5 mL Suspension Sig: Five (5) mL PO 
once a day as needed for constipation.  
16. heparin (porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection every eight (8) hours: For DVT prophylaxis while 
not ambulating.  
17. senna 8.6 mg Capsule Sig: One (1) Capsule PO once a day as 
needed for constipation.  
18. Tylenol ___ mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain: Do not exceed 4 grams in a 24 hour period.  
19. Tums 300 mg (750 mg) Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
20. Vitamin D  Oral
21. cefpodoxime 100 mg Tablet Sig: Four (4) Tablet PO Q24H 
(every 24 hours) for 3 days: For three more days, to complete a 
total ___nding on ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
urinary tract infection
dehydration

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were sent to the hospital because your caretakers found you 
down on the floor after a fall. Your daughter states that you 
had poor oral intake of food and drink the last week. You had 
several imaging studies which showed no acute illness in your 
head, chest, or knee. You had an ultrasound that showed no 
significant structural change in your kidneys. Our studies 
showed that you have a urinary tract infection and acute renal 
failure. You likely fell due to a combination of your infection 
and dehydration. You were treated with IV fluids and 
antibiotics. Your kidney function improved significantly. You 
will continue a course of antibiotics (see below).

We made the following changes to you medications:
-Start taking cefpodoxime 400 mg daily for 3 more days (to 
complete a total ___nding on ___.
-Stop taking ultram, given your kidney insufficiency. You can 
discuss restarting this medication with the doctors at your 
___ facility.
-Also, stop taking lasix and omeprazole, given your kidney 
insufficiency. You can discuss restarting this medication with 
the doctors at your ___ facility.
-Stop potassium supplementation.

Please take your other medications as previously prescribed.
 
Followup Instructions:
___